US08754079B2
XXXXXII.1 racemic cis-2-(5-fluoro-2-nitrophenoxy)cyclopentanol
Prepared analogously to III.1 from cis-1,2-cyclopentandiol (1.0 g) and 1.28 ml 2,4-difluoronitrobenzene.

reactant | cis-1,2-cyclopentandiol | 1.0 g | [C@@H]1([C@H](CCC1)O)O | C5H10O2
reactant | 2,4-difluoronitrobenzene | 1.28 ml | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
product | racemic cis-2-(5-fluoro-2-nitrophenoxy)cyclopentanol | FC=1C=CC(=C(O[C@@H]2[C@@H](CCC2)O)C1)[N+](=O)[O-] | C11H12FNO4
